US04163846
2-Methyl-3-acetylamino-6-t-butyl-2,5-dihydropyrazolo[3,4-d]-pyrimidin-4-one (I)
Acetyl chloride (3.8 g) was added slowly to a suspension of 2-methyl-3-amino-6-t-butyl-2,5-dihydropyrazolo[3,4-d]-pyrimidin-4-one (10.5 g) in pyridine (50 ml). The solution was left to cool overnight and then concentrated to an oil which was dissolved in 0.5 N hydrochloric acid (20 ml). Scratching induced crystallisation. The precipitate was recrystallised from 80:20 ethanol:water (1.5 g, 12%) m.p. 340°-42° decomposition.

reactant | Acetyl chloride | 3.8 g | C(C)(=O)Cl | C2H3ClO
reactant | 2-methyl-3-amino-6-t-butyl-2,5-dihydropyrazolo[3,4-d]-pyrimidin-4-one | 10.5 g | CN1N=C2N=C(NC(C2=C1N)=O)C(C)(C)C | C10H15N5O
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 2-Methyl-3-acetylamino-6-t-butyl-2,5-dihydropyrazolo[3,4-d]-pyrimidin-4-one | CN1N=C2N=C(NC(C2=C1NC(C)=O)=O)C(C)(C)C | C12H17N5O2
